US05254558
The free base of N-allyl benzamidine hydrochloride was generated by dissolving N-allyl benzamidine hydrochloride (79.7 g) in 1N sodium hydroxide. The free base was then extracted into dichloromethane, which was dried and evaporated to provide N-allyl benzamidine (65.2 g). This was added to diethyl ethoxymethylene malonate (78 mL) in ethanol (50 mL). The resulting solution was heated at 120° C. for 2 h. The solution was cooled, diluted with ethyl acetate, washed (saturated ammonium chloride, water), dried, and evaporated to give a solid, which was collected and washed two times with ether:hexane (1:1), to provide ethyl 1-allyl-2-phenylpyrimidin-6(1H)-one-5-carboxylate as a white solid (62.5 g); 300 MHz NMR: 8.56 (s,1), 7.54 (m,5), 5.80 (m,1), 5.09 (d,1), 4.82 (d,1), 4.47 (d,2), 4.28 (q,2), 1.28 (t,3).

reactant | N-allyl benzamidine hydrochloride | Cl.C(C=C)NC(C1=CC=CC=C1)=N
reactant | N-allyl benzamidine hydrochloride | 79.7 g | Cl.C(C=C)NC(C1=CC=CC=C1)=N
solvent | sodium hydroxide | 1N | [OH-].[Na+]
product | N-allyl benzamidine | 65.2 g | C(C=C)NC(C1=CC=CC=C1)=N | C10H12N2
